US06573273B1
Under a nitrogen atmosphere, triethylamine (1.04 mL, 7.51 mmol) was added to a chilled (0°) solution of 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.50 g, 5.01 mmol) in chloroform (75 mL). 4-Morpholinecarbonyl chloride (830 mg, 5.51 mmol) was added dropwise. The reaction was allowed to warm to ambient temperature and was maintained over the weekend. An equal volume of aqueous 1% sodium carbonate was added with vigorous stirring. A precipitate was isolated by filtration to provide 1.73 g of crude product as a white powder. This material was purified by column chromatography (silica gel eluting with a 0-5% methanol in chloroform gradient) and then triturated with diethyl ether to provide 1.6 g of N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide as a white powder, m.p. 194.0-196.0° C. Analysis: Calculated for C21H28N6O3: %C, 61.15; %H, 6.84; %N, 20.37; Found: %C, 60.82; %H, 6.94; %N, 20.34.

reactant | triethylamine | 7.51 mmol, 1.04 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-aminopropyl)-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.01 mmol, 1.50 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C16H21N5O
reactant | 4-Morpholinecarbonyl chloride | 5.51 mmol, 830 mg | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]propyl}morpholine-4-carboxamide | 1.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=O)N2CCOCC2)CCOC | C21H28N6O3
